US04571394
1-[[1-Methyl-3-[3-[[1-(methylamino)-2-nitroethenyl]amino]propyl]-1H-1,2,4-triazol-5-yl]amino]-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol
A solution of 1-[[3-(3-aminopropyl)-1-methyl-1H-1,2,4-triazol-5-yl]amino]-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol (0.25 g) and N-methyl-1-(methylthio)-2-nitroethenamine (0.1 g) in water (6 ml) and methanol (6 ml) was stirred at room temperature for 24 h. A further quantity of N-methyl-1-(methylthio)-2-nitroethenamine (0.01 g) was added and the mixture stirred for a further 3 h. The reaction mixture was concentrated to ca. 6 ml, diluted with water (10 ml), acidified to pH3 with acetic acid and washed with ethyl acetate. The aqueous solution was basified with excess potassium carbonate and extracted with ethyl acetate. The extract was dried and evaporated to leave a brown gum which was chromatographed on silica using methanol:ammonia (250:1) to give a gum which was dissolved in hot ethyl acetate and cooled to precipitate a gum. This gum was dissolved in chloroform and filtered through florosil and hyflo. The filtrate was evaporated to give the title compound (0.12 g) as a solid white foam m.p. 60°-63° (softens).

reactant | 1-[[3-(3-aminopropyl)-1-methyl-1H-1,2,4-triazol-5-yl]amino]-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol | 0.25 g | NCCCC1=NN(C(=N1)NCC(COC1=CC(=CC=C1)CN1CCCCC1)O)C | C21H34N6O2
reactant | N-methyl-1-(methylthio)-2-nitroethenamine | 0.1 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
reactant | N-methyl-1-(methylthio)-2-nitroethenamine | 0.01 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
solvent | water | 6 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[[1-Methyl-3-[3-[[1-(methylamino)-2-nitroethenyl]amino]propyl]-1H-1,2,4-triazol-5-yl]amino]-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol | 0.12 g | CN1N=C(N=C1NCC(COC1=CC(=CC=C1)CN1CCCCC1)O)CCCNC(=C[N+](=O)[O-])NC | C24H38N8O4
